US04657579
N-(4,6-dimethoxypyrimidin-5-yl)chloroacetamide
A sulphonation flask is charged with 310 g 5-amino-4,6-dimethoxypyrimidin and 3500 ml dry CH2Cl2. To this mixture is added, within 15 minutes, a solution of 248.6 g chloroacetyl chloride in 400 ml dry CH2Cl2. The reaction is exothermic, the temperature rises from 14° to 32° and a suspension is formed. The reaction mixture is heated under reflux for 2 hours, then cooled to ambient temperature and evaporated till dryness. The solid residue is suspended in 3 l ice water, the suspension adjusted at pH 7-8 with diluted NaOH, cooled to 5° and sucked-off. The precipitate is washed twice with 500 ml ice water and then dried in vacuum at 60° to give the title compound, m.p. 193°-195°.

reactant | 5-amino-4,6-dimethoxypyrimidin | 310 g | NC=1C(=NC=NC1OC)OC | C6H9N3O2
reactant | chloroacetyl chloride | 248.6 g | ClCC(=O)Cl | C2H2Cl2O
solvent | CH2Cl2 | 400 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 3500 ml | C(Cl)Cl | CH2Cl2
product | N-(4,6-dimethoxypyrimidin-5-yl)chloroacetamide | COC1=NC=NC(=C1NC(CCl)=O)OC | C8H10ClN3O3
